US08476253B2
tert-Butyl 4-(methylamino)benzoate
4-(Methylamino)benzoate (2.00 g, 13.2 mmol) was dissolved in tert-butanol (66 mL), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (89 mg, 0.464 mmol) and 4-dimethylaminopyridine (81 mg, 0.660 mmol) were added, and the mixture was stirred at room temperature for 17 hours. The solvent was evaporated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=6:1, v/v) to give the title compound (2.14 g; yield, 78%) as a yellow oily substance.

reactant | 4-(Methylamino)benzoate | 13.2 mmol, 2.00 g | CNC1=CC=C(C(=O)[O-])C=C1
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.464 mmol, 89 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | tert-butanol | 66 mL | C(C)(C)(C)O | C4H10O
catalyst | 4-dimethylaminopyridine | 0.660 mmol, 81 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-Butyl 4-(methylamino)benzoate | 2.14 g, 78% | CNC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H17NO2
